US07317033B2
a) N-(2-Amino-3,5-difluorophenyl)-N′-(4-methyl-3-thienyl)thiourea
is obtained analogously to the reaction described in example 1 b) from 4-methyl-3-thienyl isothiocyanate and 3,5-difluoro-1,2-diaminobenzene. Crystalline solid, 1st melting point: 178-182° C., another crystallization with 2nd m.p.: 299-301° C.

reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | 3,5-difluoro-1,2-diaminobenzene | FC=1C(=C(C=C(C1)F)N)N | C6H6F2N2
product | N-(2-Amino-3,5-difluorophenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C=C(C=C1F)F)NC(=S)NC1=CSC=C1C | C12H11F2N3S2
